US06642226B2
(−)-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-methanone
The title compound, MS: m/e=534.3 (M+H+), [α]58920=−53.04, [α]54620=−65.78, [α]43620=−135.72, [α]36520=−277.94 (c=0.3846, chloroform), was prepared in accordance with the general methods of example 102 (part1) and example 125 from (−)-(1-{4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazin-1-yl}-2,2,2-trifluoro-ethanone and formaldehyde.

reactant | 1-{4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-(4-chloro-phenyl)-piperidin-4-yl]-piperazin-1-yl}-2,2,2-trifluoro-ethanone | FC(C=1C=C(C(=O)N2CC(C(CC2)N2CCN(CC2)C(C(F)(F)F)=O)C2=CC=C(C=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C26H23ClF9N3O2
reactant | formaldehyde | C=O | CH2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (−)-(3,5-Bis-trifluoromethyl-phenyl)-[3-(4-chloro-phenyl)-4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CC(C(CC1)N1CCN(CC1)C)C1=CC=C(C=C1)Cl)(F)F | C25H26ClF6N3O
